US08912209B2
Intermediate 12: {1-[3′-Amino-5-(3-fluoro-pyridin-4-ylcarbamoyl)-biphenyl-2-yl]-ethyl}-carbamic acid tert-butyl ester
To a solution of {1-[2-bromo-4-(3-fluoro-pyridine-4-ylcarbamoyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester (1094 μmol) and 3-aminophenylboronic acid (2 eq) in a mixture of DME/ethanol/1N Na2CO3: 1/1/1 (10 ml) was added Pd tetrakis (0.05 eq). The reaction mixture was heated in the microwave at 130° C. for 1.5 hours. The reaction mixture was cooled to RT and diluted with water and citric acid and extracted with EtOAc. The combined organic layers were washed with water and brine. The organic layer was dried over MgSO4 and the solvent was removed under reduced pressure. The compound was purified by column chromatography (silicagel, DCM/MeOH gradient).

reactant | {1-[2-bromo-4-(3-fluoro-pyridine-4-ylcarbamoyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 1094 μmol | C(C)(C)(C)OC(NC(C)C1=C(C=C(C=C1)C(NC1=C(C=NC=C1)F)=O)Br)=O | C19H21BrFN3O3
reactant | 3-aminophenylboronic acid | 2 eq | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
solvent | DME ethanol | 1N | COCCOC.C(C)O
solvent | water | O | H2O
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | Pd tetrakis | 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {1-[3′-Amino-5-(3-fluoro-pyridin-4-ylcarbamoyl)-biphenyl-2-yl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C)C1=C(C=C(C=C1)C(NC1=C(C=NC=C1)F)=O)C1=CC(=CC=C1)N)=O | C25H27FN4O3
